US08071600B2
Trifluoroacetic acid (6 ml) was added to a solution of 1.22 g (3.7 mmol) of tert-butyl 4-benzo[b]thiophen-4-yl-3-methylpiperazin-1-carboxylate in a dichloromethane solution (12 ml) and the mixture was stirred at room temperature for one hour. The reaction mixture was concentrated under reduced pressure, and a 5% aqueous potassium carbonate solution was added to the residue and the resulting mixture was extracted with dichloromethane. The extraction solution with dichloromethane was dried over magnesium sulfate and thereafter concentrated under reduced pressure. To the residue obtained, concentrated hydrochloric acid (0.6 ml) and methanol (10 ml) were added and the resulting mixture was concentrated under reduced pressure. The obtained residue was subjected to recrystallization from acetonitrile to obtain 1-benzo[b]thiophen-4-yl-2-methylpiperazine dihydrochloride (0.98 g) as light brown powder.

reactant | Trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-benzo[b]thiophen-4-yl-3-methylpiperazin-1-carboxylate | 3.7 mmol, 1.22 g | S1C2=C(C=C1)C(=CC=C2)N2C(CN(CC2)C(=O)OC(C)(C)C)C | C18H24N2O2S
reactant | dichloromethane | 12 ml | ClCCl | CH2Cl2
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 1-benzo[b]thiophen-4-yl-2-methylpiperazine dihydrochloride | 0.98 g | Cl.Cl.S1C2=C(C=C1)C(=CC=C2)N2C(CNCC2)C | InChI=1S/C13H16N2S.2ClH/c1-10-9-14-6-7-15(10)12-3-2-4-13-11(12)5-8-16-13;;/h2-5,8,10,14H,6-7,9H2,1H3;2*1H
